US04414216
A mixture of 1.74 g of cis-2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran, 1.5 g of 1-(4-piperidyl)-5-chloro-benzimidazolin-2-one and 0.8 g of potassium carbonate in 20 ml of dimethylformamide is heated with stirring at 70° C. for 16 hours. The reaction mixture is then poured into water and extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The crystalline residue is recrystallized from ethanol to give 1-[1-(cis-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]-5-chloro-benzimidazolin-2-one as colorless prisms, melting at 207.5°-208.5° C. The corresponding maleate melts at 207° C. with decomposition.

reactant | cis-2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran | 1.74 g | FC1=CC=C(C=C1)[C@@H]1OC[C@@H](C1)CI | C11H12FIO
reactant | 1-(4-piperidyl)-5-chloro-benzimidazolin-2-one | 1.5 g | N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C12H14ClN3O
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[1-(cis-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]-5-chloro-benzimidazolin-2-one | FC1=CC=C(C=C1)[C@@H]1OC[C@@H](C1)CN1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C23H25ClFN3O2
